US06635635B2
Step A: N-[2-(Aminosulphonyl)-4-methoxyphenyl]-4-chlorobutanamide
144 mmol of triethylamine are added to a solution containing 96.4 mmol of 2-amino-5-methoxybenzenesulphonamide in 200 ml of tetrahydrofuran (THF), followed dropwise by a solution containing 135 mmol of 4-chlorobutanoic acid chloride in 30 ml of THF. After stirring overnight at room temperature, the THF is removed by evaporation and the residue is taken up in water. After extraction with ethyl acetate, the organic phase is washed and dried. After evaporation, the expected product is obtained in the form of an oil.

reactant | triethylamine | 144 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-methoxybenzenesulphonamide | 96.4 mmol | NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H10N2O3S
reactant | 4-chlorobutanoic acid chloride | 135 mmol | ClCCCC(=O)Cl | C4H6Cl2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
product | N-[2-(Aminosulphonyl)-4-methoxyphenyl]-4-chlorobutanamide | NS(=O)(=O)C1=C(C=CC(=C1)OC)NC(CCCCl)=O | C11H15ClN2O4S
